US06451821B1
A mixture of 26.7 g of tert-butyl (1R)-1-benzyl-2-[methoxy(methyl)amino]-2-oxoethylcarbamate in 534 cm3 of tetrahydrofuran dried over 4 Å sieves is cooled, under an inert atmosphere, to a temperature in the region of 0° C. 87 cm3 of a 3 M solution of methylmagnesium bromide in diethyl ether are then added over 45 minutes and the resulting mixture is then stirred for 1 hour at 0° C. and for 18 hours at room temperature. The reaction medium is re-cooled to a temperature in the region of 0° C., 55 cm3 of 1N hydrochloric acid are then added dropwise and the mixture is stirred for 30 minutes at this temperature. After filtration through Celite, 200 cm3 of water are added to the filtrate, which is then extracted with twice 200 cm3 of ethyl acetate. The combined organic phases are dried over sodium sulfate, filtered and then concentrated under reduced pressure (2 kPa) at a temperature in the region of 40° C. 21.2 g of tert-butyl (1R)-1-benzyl-2-oxopropylcarbamate are obtained in the form of yellow crystals melting at 59° C. 1H NMR spectrum (300 MHz, (CD3)2SO-d6, δ in ppm): 1.34 (s: 9H); 2.13 (s: 3H); 2.71 (dd, J=14 and 10 Hz: 1H); 3.01 (dd, J=14 and 5 Hz: 1H); 4.13 (mt: 1H); from 7.10 to 7.35 (mt: 6H).

reactant | tert-butyl (1R)-1-benzyl-2-[methoxy(methyl)amino]-2-oxoethylcarbamate | 26.7 g | C(C1=CC=CC=C1)[C@H](C(=O)N(C)OC)NC(OC(C)(C)C)=O | C16H24N2O4
reactant | tetrahydrofuran | 534 cm3 | O1CCCC1 | C4H8O
product | tert-butyl (1R)-1-benzyl-2-oxopropylcarbamate | 21.2 g | C(C1=CC=CC=C1)[C@H](C(C)=O)NC(OC(C)(C)C)=O | C15H21NO3
